US04312876
Trans-1-cyclopropylcarbonyl-3-phenyl-4-piperidinol
A solution of 4.77 g 1-cyclopropylcarbonyl-3-phenyl-4-piperidone in 50 ml of absolute ethanol is cooled to 4° C. and treated dropwise under nitrogen with a solution of 0.74 g of sodium borohydride in 50 ml of absolute ethanol over a 10 minute period, keeping the pot temperature below 10° C. After the addition is complete, the bath is removed. The mixture is cooled while diluting with 100 ml of saturated sodium chloride solution and, after stirring for a few minutes the ethanol is removed in vacuo and the aqueous residue is extracted with dichloromethane (1×150 ml, 2×100 ml). The combined dichloromethane extracts are washed with 150 ml of saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to afford a yellow oil. The oil is chromatographed on 190 g of silica gel using ether as solvent followed by 5%, 10% and finally 50% acetone/ether mixture. The cis-isomer is eluted first followed by the trans-isomer as a colorless solid. Recrystallization from 5 ml of ethyl acetate affords product as a colorless crystalline solid, mp, 125°-127.5° C.

reactant | 1-cyclopropylcarbonyl-3-phenyl-4-piperidone | 4.77 g | C1(CC1)C(=O)N1CC(C(CC1)=O)C1=CC=CC=C1 | C15H17NO2
reactant | sodium borohydride | 0.74 g | [BH4-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Trans-1-cyclopropylcarbonyl-3-phenyl-4-piperidinol | C1(CC1)C(=O)N1C[C@H]([C@@H](CC1)O)C1=CC=CC=C1 | C15H19NO2
